US06921821B2
6-Chloro-4-[1-(2-methyl-3-phenyl-allyl)-piperidin-4-ylamino]-chromen-2-one (III-8)
According to Procedure A above, 6-chloro-4-(piperidin-4-ylamino)-chromen-2-one and 2-methyl-3-phenyl-propenal (0.031 g, 0.216 mmol) were allowed to react to give the title compound (0.008 g, 25.8%, mono-TFA salt) as a off-white solid. 1H NMR (400 MHz, DMSO) δ ppm 8.35 (d, J=3, 1H), 7.66 (dd, J=3, 9, 1H), 7.32-7.47 (m, 6H), 6.76 (br s, 1H), 5.46 (s, 1H), 3.94-3.99 (m, 1H), 3.86 (d, J=3, 9, 1H), 3.53-3.60 (m, 2H), 3.05-3.20 (m, 2H), 2.18-2.28 (m, 2H), 2.05-2.15 (m, 1H), 2.01 (s, 3H), 1.82-1.91 (m, 2H); MS (ESI+Q1MS) m/z 409 [M]+

reactant | 6-chloro-4-(piperidin-4-ylamino)-chromen-2-one | ClC=1C=C2C(=CC(OC2=CC1)=O)NC1CCNCC1 | C14H15ClN2O2
reactant | 2-methyl-3-phenyl-propenal | 0.216 mmol, 0.031 g | CC(C=O)=CC1=CC=CC=C1 | C10H10O
product | 6-Chloro-4-[1-(2-methyl-3-phenyl-allyl)-piperidin-4-ylamino]-chromen-2-one | 0.008 g, 25.8% | ClC=1C=C2C(=CC(OC2=CC1)=O)NC1CCN(CC1)CC(=CC1=CC=CC=C1)C | C24H25ClN2O2
